US06417193B1
N-t-Butyloxycarbonyl-N′-(3-[2-Chloro-6-Fluorophenyl]-5-Methylisoxazol-4-oyl)-1,4-Diaminobutane
N-t-butyloxycarbonyl-1,4-diaminobutane (985 mg, 5.23 mmol) and 3-(2-chloro-6-fluorophenyl)-5-methylisoxazol-4-oyl chloride (1.43 g, 5.23 mmol) were converted to 2.23 g of the title compound by the procedure of Preparation 1 except that the reaction time was about 18 hours. (100%). EA calculated for: C20H25N3O4ClF: C, 56.41; H, 5.92; N, 9.87. Found: C, 56.12; H, 5.75; N, 9.67. MS(FD) m/z 426 (M+).

reactant | N-t-butyloxycarbonyl-1,4-diaminobutane | 5.23 mmol, 985 mg | C(C)(C)(C)OC(=O)NCCCCN | C9H20N2O2
reactant | 3-(2-chloro-6-fluorophenyl)-5-methylisoxazol-4-oyl chloride | 5.23 mmol, 1.43 g | ClC1=C(C(=CC=C1)F)C1=NOC(=C1C(=O)Cl)C | C11H6Cl2FNO2
product | N-t-Butyloxycarbonyl-N′-(3-[2-Chloro-6-Fluorophenyl]-5-Methylisoxazol-4-oyl)-1,4-Diaminobutane | 2.23 g | C(C)(C)(C)OC(=O)NCCCCNC(=O)C=1C(=NOC1C)C1=C(C=CC=C1F)Cl | C20H25ClFN3O4
